US08044041B2
6-Bromo-2H-phthalazin-1-one
A mixture of 5-bromo-3-hydroxy-2,3-dihydro-isoindol-1-one (15.75 g, 69.06 mmol) and hydrazine hydrate (70 mL, 1439.2 mmol) was heated at 95° C. for 5 h. The precipitate was filtered, washed with water and the crude material triturated with hot EtOAc to afford the product (7.25 g, 46.6%) as a yellow solid.

reactant | 5-bromo-3-hydroxy-2,3-dihydro-isoindol-1-one | 69.06 mmol, 15.75 g | BrC=1C=C2C(NC(C2=CC1)=O)O | C8H6BrNO2
reactant | hydrazine hydrate | 1439.2 mmol, 70 mL | O.NN
product | 6-Bromo-2H-phthalazin-1-one | 7.25 g, 46.6% | BrC=1C=C2C=NNC(C2=CC1)=O | C8H5BrN2O
